US06787536B2
4-{4-[5-(4-Fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}tetrahydropyran-4-carboxylic acid
Prepared according to the method for the preparation of 4-[4-(4-bromophenyl)-piperazine-1-sulfonylmethyl]tetrahydropyran-4-carboxylic acid, from 5-(4-fluoro-phenyl)-2-piperazin-1-ylpyrimidine dihydrochloride (0.27 g), and 4-chlorosulfonyl-methyltetrahydropyran-4-carboxylic acid methyl ester (0.25 g), to yield the title compound as white solid (0.31 g, 81%).

reactant | 4-[4-(4-bromophenyl)-piperazine-1-sulfonylmethyl]tetrahydropyran-4-carboxylic acid | BrC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)CC1(CCOCC1)C(=O)O | C17H23BrN2O5S
reactant | 5-(4-fluoro-phenyl)-2-piperazin-1-ylpyrimidine dihydrochloride | 0.27 g | Cl.Cl.FC1=CC=C(C=C1)C=1C=NC(=NC1)N1CCNCC1
reactant | 4-chlorosulfonyl-methyltetrahydropyran-4-carboxylic acid methyl ester | 0.25 g | COC(=O)C1(CC(OCC1)C)S(=O)(=O)Cl | C8H13ClO5S
product | 4-{4-[5-(4-Fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}tetrahydropyran-4-carboxylic acid | 0.31 g, 81% | FC1=CC=C(C=C1)C=1C=NC(=NC1)N1CCN(CC1)S(=O)(=O)CC1(CCOCC1)C(=O)O | C21H25FN4O5S
